US09314468B2
Preparation of 2-(3-azidopropyl)isoindoline-1,3-dione (20).
A heavy-walled Pyrex tube was charged with a suspension of N-(3-bromopropyl)phthalimide (1.00 g, 3.72 mmol) and sodium azide (0.32 g, 4.84 mmol) in H2O (2 mL). The tube containing the resulting mixture was sealed with an aluminum crimp cap fitted with a silicon septum and then it was exposed to microwave irradiation for 30 min at a temperature of 120° C. After the irradiation, the reaction tube was cooled with high-pressure air until the temperature had fallen below 40° C. The product was extracted with ethyl acetate. The combined organic layers were dried with magnesium sulfate, filtered and concentrated in vacuo. The crude material (0.62 g, 72% yield) was used without further purification in the next step. 1H NMR (400 MHz, CDCl3) δ 7.86-7.83 (m, 2H), 7.73-7.70 (m, 2H), 3.77 (t, J=6.4 Hz, 2H), 3.36 (t, J=8.0 Hz, 2H), 1.94 (m, 2H).

reactant | N-(3-bromopropyl)phthalimide | 3.72 mmol, 1.00 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | sodium azide | 4.84 mmol, 0.32 g | [N-]=[N+]=[N-].[Na+]
reactant | aluminum | [Al] | Al
solvent | H2O | 2 mL | O | H2O
product | 2-(3-azidopropyl)isoindoline-1,3-dione | 0.62 g, 72% yield | N(=[N+]=[N-])CCCN1C(C2=CC=CC=C2C1=O)=O | C11H10N4O2
